US05753664
N-t-Butoxycarbonyl-4-piperidone
In THF (100 ml) was suspended 4-piperidone mono-hydrochloride (5.22 g) followed by addition of N,N-di-methylaminopyridine (208 mg). Then, triethylamine (18.9 ml) was added under ice-cooling. The mixture was stirred at room temperature for 1.5 hours, at the end of which time di-tert-butyl dicarbonate (14.84 g) was added. After 20 hours of stirring at room temperature, triethylamine (9.4 ml) and di-tert-butyl dicarbonate (14.84 g) were further added. The mixture was stirred for 4 days and after the THF was distilled off, the residue was diluted with ethyl acetate, washed serially with 10% citric acid, water, aqueous NaHCO3 solution, water, and aqueous NaCl solution, dried over MgSO4, and concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=2:1) to provide the title compound as yellow powder (4.24 g). 1H-NMR (CDCl3) δ: 1.50(9H,s), 2.45(4H,t,J=6.2Hz), 3.73(4H,t,J=6.2Hz).

reactant | 4-piperidone mono-hydrochloride | 5.22 g | Cl.N1CCC(CC1)=O
reactant | triethylamine | 18.9 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 14.84 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 9.4 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 14.84 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-t-Butoxycarbonyl-4-piperidone | 4.24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
